US09193751B2
Preparation of (2-chloro-5-iodophenyl)methan-1-ol
A 250 mL of 4-necked flask equipped with thermometer and mechanical stirring was charged with NaBH4 (4.16 g, 0.11 mol) and THF (60 mL) under argon. After cooling to 0˜5° C. with stirring, a solution of iodine in THF (12.7 g I2 in 25 mL THF) was added slowly dropwise over 30 min and the reaction temperature was maintained below 10° C. After the addition was completed, a solution of 2-chloro-5-iodobenzoic acid (15.0 g, 50 mmol) in THF (20 mL) was added dropwise over 30 min and kept the reaction temperature below 10° C. After stirring for another 3 h at 20˜25° C., the reaction mixture was heated to reflux for additional 16 h and monitored by TLC (PE/EA=1:1, Rf=0.2). The mixture was cooled to 20˜25° C. and poured into ice water (100 mL), extracted with ethyl acetate (2×100 mL), washed with water (2×100 mL), brine (100 mL), concentrated and the residue was purified by flash chromatography (PE:EA=20:1 as eluant, 200 mL) to give an off-white solid. Yield: 10.0 g (70%) MS ESI (m/z): 269 [M+1]+.

reactant | NaBH4 | 0.11 mol, 4.16 g | [BH4-].[Na+]
reactant | iodine | II | I2
reactant | 2-chloro-5-iodobenzoic acid | 50 mmol, 15.0 g | ClC1=C(C(=O)O)C=C(C=C1)I | C7H4ClIO2
reactant | EA | CC(OCC)=O | C4H8O2
solvent | THF | 25 mL, 12.7 g | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (2-chloro-5-iodophenyl)methan-1-ol | ClC1=C(C=C(C=C1)I)CO | C7H6ClIO
